US07135488B2
Synthesis of 1-Cyclohexylmethyl-2-methyl-5-[2-(4-nitro-phenyl)-thiazol-4-yl]-1H-pyrrole-3-carboxylic acid butylamide
To 180 mg of the previous crude material in 5 ml of dimethylformamide was added 0.15 ml of cyclohexylmethylamine together with 0.13 ml of trimethyl orthoformate and the reaction mixture was stirred for 24 hours at room temperature. After such time, 260 mg of 2-bromo-1-[2-(4-nitro-phenyl)-thiazol-4-yl]-ethanone was added together with 0.14 ml of 2,6-lutidine and the reaction mixture was stirred for another 24 hours at room temperature. After such time, 5 ml of a MeCN—H2O (1:1) solution is added to the reaction mixture, the precipitate is filtrated and washed with MeCN—H2O (1:1) and isopropylether to yield 264 mg of the title compound as a yellow solid, mp=184–187° C., MS (ISP) 481.3 (M+H)+.

reactant | cyclohexylmethylamine | 0.15 ml | C1(CCCCC1)CN | C7H15N
reactant | trimethyl orthoformate | 0.13 ml | C(OC)(OC)OC | C4H10O3
reactant | 2-bromo-1-[2-(4-nitro-phenyl)-thiazol-4-yl]-ethanone | 260 mg | BrCC(=O)C=1N=C(SC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H7BrN2O3S
reactant | 2,6-lutidine | 0.14 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | MeCN—H2O | 5 ml | CC#N.O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Cyclohexylmethyl-2-methyl-5-[2-(4-nitro-phenyl)-thiazol-4-yl]-1H-pyrrole-3-carboxylic acid butylamide | 264 mg | C(CCC)NC(=O)C1=C(N(C(=C1)C=1N=C(SC1)C1=CC=C(C=C1)[N+](=O)[O-])CC1CCCCC1)C | C26H32N4O3S
